US08076505B2
1-(3′,4′-dichloro-2-fluoro[1,1′-biphenyl]-4-yl)-cyclopropanenitrile (14.3 g, 0.047 mol) was dissolved in a mixture of methanol (143 ml) and water (71.5 ml), potassium hydroxide (35.1 g, 0.563 mol) was added portion-wise, and the mixture was refluxed for 48 hours. The reaction mixture was cooled and poured in a solution of aqueous hydrogen chloride 36% (57 ml) in water (57 ml) at 20 to 25° C. The suspension was stirred and filtered; the solid was repeatedly washed with water and dried at 40° C. under vacuum. The crude product was dissolved in refluxing 2-propanol (178 ml), the solution was mixed with activated carbon (0.3 g), stirred at reflux and filtered, concentrated and mixed with n-heptane (116 ml). The hot solution was cooled to 0 to 5° C. and the crystallized solid was filtered, washed with 2-propanol, and dried at 40° C. under vacuum. The compound 1-(3′,4′-dichloro-2-fluoro[1,1′-biphenyl]-4-yl)-cyclopropanecarboxylic acid was obtained as a white powder (10.3 g, 68% yield).

reactant | 1-(3′,4′-dichloro-2-fluoro[1,1′-biphenyl]-4-yl)-cyclopropanenitrile | 0.047 mol, 14.3 g | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C1(CC1)C#N)F | C16H10Cl2FN
reactant | potassium hydroxide | 0.563 mol, 35.1 g | [OH-].[K+]
reactant | hydrogen chloride | 57 ml | Cl | ClH
reactant | methanol | 143 ml | CO | CH4O
solvent | water | 71.5 ml | O | H2O
solvent | water | 57 ml | O | H2O
product | 1-(3′,4′-dichloro-2-fluoro[1,1′-biphenyl]-4-yl)-cyclopropanecarboxylic acid | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C1(CC1)C(=O)O)F | C16H11Cl2FO2
